US04814341
2-Guanidino-4-(5-[N,N-dimethylcarbamoyl]-2-furyl)thiazole
A mixture of 2.6 g. (0.01 mole) of N,N-dimethyl5-(2-bromoacetyl)furan-2-carboxamide, 1.18 g. (0.01 mole) of guanylthiourea and 100 ml. of acetone was stirred at room temperature for 4 hours. An additional 354 mg. of guanylthiourea was added and stirring was continued for 3 days. The reaction mixture was filtered, and the residue was washed with acetone and then dissolved in water. The solution thus obtained was made alkaline using 10% sodium hydroxide solution and extracted with ethyl acetate. The extracts were dried (MgSO4) and concentrated in vacuo to give a first crop of the title compound (500 mg.). The aqueous phase from the extraction was further basified (to pH 14) and extracted with n-butanol. Evaporation of the n-butanol gave a second crop of the title compound (900 mg.). The two crops of the title compound were combined and recrystallized from aqueous ethanol, giving 550 mg. of a brown solid, mp. 252°-253.5° C. (dec). Two additional samples of the title compound were obtained from the recrystallization mother liquors: 190 mg. mp 249°-252° C.; 91 mg., mp 248°-251° C.

reactant | N,N-dimethyl5-(2-bromoacetyl)furan-2-carboxamide | 0.01 mole | CN(C(=O)C=1OC(=CC1)C(CBr)=O)C | C9H10BrNO3
reactant | guanylthiourea | 0.01 mole | C(N)(=N)NC(=S)N | C2H6N4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-Guanidino-4-(5-[N,N-dimethylcarbamoyl]-2-furyl)thiazole | 500 mg | N(C(=N)N)C=1SC=C(N1)C=1OC(=CC1)C(N(C)C)=O | C11H13N5O2S
